US04746669
Isonicotinoyl chloride hydrochloride (1.44 g, 8.09 mmol) was stirred in dry dichloromethane (20 ml) and triethylamine (4.0 ml, 2.9 g, 20 mmol) was added. The mixture was stirred at 25° C. for 5-10 minutes, then cooled in an ice bath. 1-Amino-3-phenyl-2-propanone hydrochloride (1.00 g, 5.39 mmol) was added in portions over 4 minutes. The reaction was stirred 0.5 hour while warming to 25° C., then 0.5 hour at 25° C. Water (5-10 ml) was added and the mixture was stirred 5 minutes before being extracted with ethyl acetate (75 ml). The organic layer was washed with saturated aqueous sodium bicabonate (2×35 ml) and saturated aqueous sodium chloride (35 ml), dried (sodium sulfate), decanted, and evaporated. The residue was purified by flash column chromatography on silica gel (50 g) eluted with 5% isopropanol in dichloromethane, yielding N-(3-phenyl-2-oxopropyl)isonicotinamide (1.23 g, 89% yield) as an orange oil which crystallized (m.p. 85°-86° C.) upon standing. Recrystallization of a portion of this material from toluene raised the m.p. to 86°-88° C.

reactant | Isonicotinoyl chloride hydrochloride | 8.09 mmol, 1.44 g | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | triethylamine | 20 mmol, 4.0 ml, 2.9 g | C(C)N(CC)CC | C6H15N
reactant | 1-Amino-3-phenyl-2-propanone hydrochloride | 5.39 mmol, 1.00 g | Cl.NCC(CC1=CC=CC=C1)=O
reactant | Water | 5-10 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(3-phenyl-2-oxopropyl)isonicotinamide | 1.23 g, 89% yield | C1(=CC=CC=C1)CC(CNC(C1=CC=NC=C1)=O)=O | C15H14N2O2
